US09227973B2
Step A: 2-(2-Bromopyridin-3-yl)-1-phenylethanol
A solution of n-butyllithium in hexanes (2.5 M, 27.9 mL, 0.0698 mol) was added dropwise over a period of 30 min to a solution of N,N-diisopropylamine (9.9 mL, 0.069 mol, 1.2 equiv) in anhydrous THF (40 mL) at −78° C. The resulting mixture was slowly warmed to 5° C. over 30 min, then cooled to −78° C., and a solution of 2-bromo-3-methylpyridine (6.5 mL, 0.058 mol) in anhydrous THF (20 mL) was added dropwise over 45 min and stirred for 1 h. A solution of benzaldehyde (7.1 mL, 0.069 mol) in THF (20 mL) was then added dropwise over 15 min. The resulting solution was gradually warmed to 23° C. The reaction mixture was quenched with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 25% ethyl acetate in petroleum ether to give the title compound. MS: m/z=280.0 (M+1).

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 0.069 mol, 9.9 mL, 1.2 equiv | C(C)(C)NC(C)C | C6H15N
reactant | 2-bromo-3-methylpyridine | 0.058 mol, 6.5 mL | BrC1=NC=CC=C1C | C6H6BrN
reactant | benzaldehyde | 0.069 mol, 7.1 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2-Bromopyridin-3-yl)-1-phenylethanol | BrC1=NC=CC=C1CC(O)C1=CC=CC=C1 | C13H12BrNO
